* -*- spice -*-
* http://www.nxp.com/documents/spice_model/BAV21.prm
*
*******************************************
*
* BAV21
* 
* NXP Semiconductors
* 
* General-purpose diode 
* 
* VRRM = 250V
* IFRM = 625mA   
* trr  = 50ns
* 
* Package pinning does not match Spice model pinning.
* Package: SOD27
* 
* Package Pin 1: Cathode 
* Package Pin 2: Anode
* 
* Simulator: PSPICE
*
*******************************************
*
.SUBCKT BAV21 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 BAV21
*
.MODEL BAV21 D
+ IS=21.910E-9
+ N=2.2330
+ RS=1.0000E-3
+ IKF=19.230E-3
+ CJO=1.0300E-12
+ M=.1001
+ VJ=.75
* + ISR=10.010E-21 * not recognised
+ BV=293.10
+ IBV=1.2930E-3
+ TT=51.940E-9
.ENDS
*
